US08309341B2
Step A: Benzyl 2-oxo-1-(3-pyridylmethyl)cyclopentanecarboxylate
In a 1-liter three-necked flask provided with magnetic stirring and a condenser, under an inert nitrogen atmosphere, potassium hydride 32% (25 g; 200 mmoles; 1.1 eq.) is suspended in anhydrous THF (200 mL). The reaction mixture is cooled to −78° C. and then benzyl 2-oxocyclopentanecarboxylate (39.7 g; 182 mmoles) is added dropwise whilst keeping the temperature below −78° C. The reaction mixture is stirred for 1 hour at ambient temperature. A solution of 3-(chloromethyl)-pyridine base (38.7 g; 226 mmoles; 1.24 eq.) in 100 mL of anhydrous THF is added to the clear yellow solution. The reaction mixture is stirred at reflux for 12 hours. After coming back to ambient temperature, the reaction mixture is evaporated to dryness and taken up in 80 mL of water and 500 mL of ethyl acetate. The aqueous phase is extracted three times with 50 mL of ethyl acetate. The combined organic phases are washed with saturated sodium chloride solution and then dried over MgSO4, filtered and concentrated. The product is purified on silica gel using a mixture of dichloromethane/ethanol (gradient of 98/2 to 95/5) as eluant to yield the expected product in the form of a yellow oil.

reactant | potassium hydride | 200 mmoles, 25 g, 1.1 eq. | [H-].[K+]
reactant | benzyl 2-oxocyclopentanecarboxylate | 182 mmoles, 39.7 g | O=C1C(CCC1)C(=O)OCC1=CC=CC=C1 | C13H14O3
reactant | 3-(chloromethyl)-pyridine | 226 mmoles, 38.7 g, 1.24 eq. | ClCC=1C=NC=CC1 | C6H6ClN
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Benzyl 2-oxo-1-(3-pyridylmethyl)cyclopentanecarboxylate | O=C1C(CCC1)(C(=O)OCC1=CC=CC=C1)CC=1C=NC=CC1 | C19H19NO3
